US05334600
An NH3 (10 mL) solution of 6-{3-[N,O-bis(phenoxycarbonyl)hydroxylamino]-1-butyn-1-yl}-2-{[5-(4-fluorophenyl)-2-pyridyl]-methyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline (310 mg, 0.47 mmol) in a sealed tube is stirred at ambient temperature for 12 hours. The mixture is then cooled to -78° C. and the reaction vessel carefully opened. The ammonia is allowed to evaporate and the resulting material is partitioned between EtOAc (60 mL) and H2O (10 mL). The aqueous phase is extracted with EtOAc (1×25 mL) and the combined organic phases are washed with saturated NaHCO3 solution (2×50 mL), saturated NaCl solution (2×5 mL), dried over MgSO4 and concentrated in vacuo- The resulting pale yellow solid is chromatographed (silica gel, EtOAc then 10% MeOH/CH2Cl2) to afford 6-[3-(N-aminocarbonyl-N-hydroxyamino)-1-butyn-1-yl]-2-{[5-(4-fluorophenyl)-2-pyridyl]-methyl}-1-oxo-1,2,3,4 -tetrahydroisoquinoline, m.p. 118°-120°C.

reactant | 6-{3-[N,O-bis(phenoxycarbonyl)hydroxylamino]-1-butyn-1-yl}-2-{[5-(4-fluorophenyl)-2-pyridyl]-methyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline | 0.47 mmol, 310 mg | O(C1=CC=CC=C1)C(=O)N(C(C#CC=1C=C2CCN(C(C2=CC1)=O)CC1=NC=C(C=C1)C1=CC=C(C=C1)F)C)OC(=O)OC1=CC=CC=C1 | C39H30FN3O6
reactant | NH3 | 10 mL | N | H3N
product | 6-[3-(N-aminocarbonyl-N-hydroxyamino)-1-butyn-1-yl]-2-{[5-(4-fluorophenyl)-2-pyridyl]-methyl}-1-oxo-1,2,3,4 -tetrahydroisoquinoline | NC(=O)N(O)C(C#CC=1C=C2CCN(C(C2=CC1)=O)CC1=NC=C(C=C1)C1=CC=C(C=C1)F)C | C26H23FN4O3
